US08314091B2
B: tert-Butyl 4-(3-(3,3-difluorocyclobutylcarbamoyl)benzyl)piperazine-1-carboxylate
3-(Chloromethyl)-N-(3,3-difluorocyclobutyl)benzamide (12.82 mmol, 3.33 g), tert-butyl piperazine-1-carboxylate (12.82 mmol, 2.388 g), potassium carbonate (38.5 mmol, 5.32 g) and sodium iodide (2.56 mmol, 0.384 g) were combined and heated at reflux in acetonitrile (50 ml) for 2 hours. The solvent was removed under reduced pressure and the residue taken up in dichloromethane, washed with water, dried over sodium sulfate and concentrated under vacuum to afford the title compound (5.179 g).

reactant | 3-(Chloromethyl)-N-(3,3-difluorocyclobutyl)benzamide | 12.82 mmol, 3.33 g | ClCC=1C=C(C(=O)NC2CC(C2)(F)F)C=CC1 | C12H12ClF2NO
reactant | tert-butyl piperazine-1-carboxylate | 12.82 mmol, 2.388 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 38.5 mmol, 5.32 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 2.56 mmol, 0.384 g | [I-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | tert-Butyl 4-(3-(3,3-difluorocyclobutylcarbamoyl)benzyl)piperazine-1-carboxylate | 5.179 g | FC1(CC(C1)NC(=O)C=1C=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)F | C21H29F2N3O3
